### PR TITLE
[Merged by Bors] - chore(Mathlib/RingTheory/LocalProperties): split LocalProperties.lean

### PR DESCRIPTION
**Pull request by mbkybky**
Split the section on local properties in general and the properties that satisfy local properties in `LocalProperties.lean` into separate files.

See the discussions [here](https://github.com/leanprover-community/mathlib4/pull/16558#discussion_r1761381528).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by riccardobrasca** [comment]
LGTM, thanks!

@erdOne do you agree with this splitting?

File: Mathlib/RingTheory/LocalProperties/Properties.lean [hunk 1]
```diff
@@ -701,9 +416,11 @@ end FiniteType
 
 section IsIntegallyClosed
 
+-- TODO: Prove that `IsIntegrallyClosed` is preserved by localization
```
Comment (mattrobball) [inline Mathlib/RingTheory/LocalProperties/Properties.lean:419]: I would even split each of these sections into separate files and shave imports using `#min_imports` to see if that is meaningful or not.

File: Mathlib/RingTheory/LocalProperties/Surjective.lean [hunk 2]
```diff
@@ -0,0 +1,72 @@
...
+
+Let `R` be a commutative ring, `M` be a submonoid of `R`.
+
+* `localizationPreserves_surjective` :  `M⁻¹R →+* M⁻¹S` is surjective if `R →+* S` is surjective.
+* `surjective_ofLocalizationSpan` : `R →+* S` is surjective if there exists a set `{ r }` that
+  spans `R` such that `Rᵣ →+* Sᵣ` is surjective.
+* `surjective_localRingHom_of_surjective` : A surjective ring homomorphism `R →+* S` induces a
+  surjective homomorphism `R_{f⁻¹(P)} →+* S_P` for every prime ideal `P` of `S`.
+
+-/
```
Comment (chrisflav) [inline Mathlib/RingTheory/LocalProperties/Surjective.lean:24]: I think this should go into `RingTheory.RingHom.Surjective` instead.

File: Mathlib/RingTheory/LocalProperties/FiniteType.lean [hunk 3]
```diff
@@ -0,0 +1,146 @@
...
+## Main results
+
+Let `R` be a commutative ring, `S` is an `R`-algebra, `M` be a submonoid of `R`.
+
+* `localization_finiteType` : If `S` is a finite type `R`-algebra, then `S' = M⁻¹S` is a
+  finite type `R' = M⁻¹R`-algebra.
+* `finiteType_ofLocalizationSpan` : `S` is a finite type `R`-algebra if there exists
+  a set `{ r }` that spans `R` such that `Sᵣ` is a finite type `Rᵣ`-algebra.
+
+-/
```
Comment (chrisflav) [inline Mathlib/RingTheory/LocalProperties/FiniteType.lean:24]: I think this should go into `RingTheory.RingHom.FiniteType` instead.

File: Mathlib/RingTheory/LocalProperties/Finite.lean [hunk 4]
```diff
@@ -0,0 +1,207 @@
...
+import Mathlib.RingTheory.Localization.Integer
+
+/-!
+# `RingHom.Finite` is a local property
+
+In this file, we prove that `RingHom.Finite` is a local property.
+
+
+## Main results
+
```
Comment (chrisflav) [inline Mathlib/RingTheory/LocalProperties/Finite.lean:16]: Also this could go into `RingTheory.RingHom.Finite` instead.

**Review by chrisflav — COMMENTED** [review]
Thanks for doing this! I think some of the new files could go in existing files instead (everything about `RingHom`s), because we have most of the local results there already. If you want, you could do a second move (but maybe rather in a follow-up PR) and factor out the local parts of all `RingHom` files in analogs in the `LocalProperties` folder.

**Comment by mbkybky** [comment]
> Thanks for doing this! I think some of the new files could go in existing files instead (everything about `RingHom`s), because we have most of the local results there already. If you want, you could do a second move (but maybe rather in a follow-up PR) and factor out the local parts of all `RingHom` files in analogs in the `LocalProperties` folder.

OK. I will move these properties in a follow-up PR.

**Comment by chrisflav** [comment]
> > Thanks for doing this! I think some of the new files could go in existing files instead (everything about `RingHom`s), because we have most of the local results there already. If you want, you could do a second move (but maybe rather in a follow-up PR) and factor out the local parts of all `RingHom` files in analogs in the `LocalProperties` folder.
> 
> OK. I will move these properties in a follow-up PR.

I'd still prefer to move all `RingHom` related declarations to the respective `RingTheory/RingHom/` files for this PR.

File: Mathlib/RingTheory/IntegralClosure/IntegrallyClosed.lean [hunk 5]
```diff
@@ -278,44 +277,7 @@ end integralClosure
 
 /-- Any field is integral closed. -/
 /- Although `infer_instance` can find this if you import Mathlib, in this file they have not been
-  proven yet. However, the next theorem is a fundamental property of `IsIntegrallyClosed`,
+  proven yet. However, it is used to prove fundamental property of `IsIntegrallyClosed`,
```
Comment (chrisflav) [inline Mathlib/RingTheory/IntegralClosure/IntegrallyClosed.lean:280]:
```suggestion
  proven yet. However, it is used to prove a fundamental property of `IsIntegrallyClosed`,
```

File: Mathlib/RingTheory/LocalProperties/Reduced.lean [hunk 6]
```diff
@@ -0,0 +1,54 @@
...
+Authors: Andrew Yang
+-/
+import Mathlib.RingTheory.LocalProperties.Basic
+
+/-!
+# `IsReduced` is a local property
+
+In this file, we prove that `IsReduced` is a local property.
+
+
```
Comment (chrisflav) [inline Mathlib/RingTheory/LocalProperties/Reduced.lean:13]:
```suggestion
```

File: Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean [hunk 7]
```diff
@@ -0,0 +1,69 @@
...
+-/
+import Mathlib.RingTheory.IntegralClosure.IntegrallyClosed
+import Mathlib.RingTheory.LocalProperties.Basic
+import Mathlib.RingTheory.Localization.LocalizationLocalization
+
+/-!
+# `IsIntegrallyClosed` is a local property
+
+In this file, we prove that `IsIntegrallyClosed` is a local property.
+
```
Comment (chrisflav) [inline Mathlib/RingTheory/LocalProperties/IntegrallyClosed.lean:14]:
```suggestion
```

File: Mathlib/RingTheory/LocalProperties/Reduced.lean [hunk 8]
```diff
@@ -0,0 +1,54 @@
...
+* `localization_isReduced` :  `M⁻¹R` is reduced if `R` is reduced.
+* `isReduced_ofLocalizationMaximal` : `R` is reduced if `Rₘ` is reduced for all maximal ideal `m`.
+
+-/
+
+/-- `M⁻¹R` is reduced if `R` is reduced. -/
+theorem localization_isReduced : LocalizationPreserves fun R hR => IsReduced R := by
+  introv R _ _
+  constructor
+  rintro x ⟨_ | n, e⟩
```
Comment (chrisflav) [inline Mathlib/RingTheory/LocalProperties/Reduced.lean:27]: We should fix the naming of these at some point. It should be called `isReduced_localizationPreserves`, but this can be in a later PR.

**Review by chrisflav — APPROVED** [review]
I only have a few minor comments, other than that LGTM. In particular I verified that no declarations were lost.

**Review by chrisflav — APPROVED** [review]
Thanks again for doing this. LGTM!
